US07384945B2
1-{4-[3-(4-Chloro-benzyl)-6-fluoro-2-phenoxymethyl-3H-benzoimidazol-5-yl]-piperazin-1-yl}-propan-1-one
72 mg of 1-(4-chloro-benzyl)-5-fluoro-2-phenoxymethyl-6-piperazin-1-yl-1H-benzoimidazole (0.16 mmol) and 0.033 ml TEA (0.24 mmol) were dissolved in 1.5 ml dichloromethane and treated with 0.018 ml propionyl chloride (0.2 mmol). After 1.5 h stirring at rt, the reaction mixture was diluted with dichloromethane, washed with water, saturated sodium bicarbonate and brine, dried with magnesium sulfate, filtered and concentrated in vacuo, leading to 79 mg of a light brown solid (96%). MS (ISP) 507.3 (M+H)+.

reactant | 1-(4-chloro-benzyl)-5-fluoro-2-phenoxymethyl-6-piperazin-1-yl-1H-benzoimidazole | 0.16 mmol, 72 mg | ClC1=CC=C(CN2C(=NC3=C2C=C(C(=C3)F)N3CCNCC3)COC3=CC=CC=C3)C=C1 | C25H24ClFN4O
reactant | propionyl chloride | 0.2 mmol, 0.018 ml | C(CC)(=O)Cl | C3H5ClO
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
product | 1-{4-[3-(4-Chloro-benzyl)-6-fluoro-2-phenoxymethyl-3H-benzoimidazol-5-yl]-piperazin-1-yl}-propan-1-one | ClC1=CC=C(CN2C(=NC3=C2C=C(C(=C3)F)N3CCN(CC3)C(CC)=O)COC3=CC=CC=C3)C=C1 | C28H28ClFN4O2
